US06949542B2
(RS)-[5-Methyl-2-(3-oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J20) (4.40 g, 15.0 mmol) and (RS)-3-oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionic acid tert-butyl ester (Example K40) (6.24 g, 15.0 mmol) according to the general procedure M. Obtained as a light yellow foam (6.20 g, 65%).

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 15.0 mmol, 4.40 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | (RS)-3-oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionic acid tert-butyl ester | 15.0 mmol, 6.24 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)COC1OCCCC1)=O)=O | C24H29NO5
product | (RS)-[5-Methyl-2-(3-oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)COC1OCCCC1)=O)=O)=O | C33H36F3N3O6
